US07129238B2
To a solution of (RS)-trifluoro-methanesulfonic acid 3-[(4-cyano-benzylcarbamoyl)-ethoxy-methyl]-2,4-difluoro-phenyl ester (570 mg) in dioxane (20 ml) was added bis(pinacolato)diboron (454 mg), dry KOAc (351 mg) and [PdCl2(PPh3)2] (25 mg). The reaction mixture was stirred 24 h at 100° C. After cooling to rt 5-bromopyridine (377 mg), 2 N aq. Na2CO3 sol. (6 ml) and [PdCl2(PPh3)2] (25 mg) were added. The resulting mixture was stirred 1 h at 90° C. The solids were filtered away and washed with H2O (100 ml) and AcOEt (80 ml). The aqueous layer was isolated and extracted with more AcOEt (100 ml). The organic layers were washed with brine (2×80 ml), combined and dried over Na2SO4. The solvent was evaporated and the crude product was purified by CC (AcOEt/Hept 3:7 to 3:1) to obtain 315 mg (65%) of (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-3-pyridin-2-yl-phenyl)-2-ethoxy-acetamide. Colorless oil. MS 408.3 ([M+H]+).

reactant | (RS)-trifluoro-methanesulfonic acid 3-[(4-cyano-benzylcarbamoyl)-ethoxy-methyl]-2,4-difluoro-phenyl ester | 570 mg | C(#N)C1=CC=C(CNC(=O)C(C=2C(=C(C=CC2F)OS(=O)(=O)C(F)(F)F)F)OCC)C=C1 | C19H15F5N2O5S
reactant | bis(pinacolato)diboron | 454 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 351 mg | CC(=O)[O-].[K+]
reactant | 5-bromopyridine | 377 mg | BrC=1C=CC=NC1 | C5H4BrN
reactant | Na2CO3 | 2 N, 6 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-3-pyridin-2-yl-phenyl)-2-ethoxy-acetamide | 315 mg, 65% | C(#N)C1=CC=C(CNC(C(OCC)C2=C(C(=CC=C2F)C2=NC=CC=C2)F)=O)C=C1 | C23H19F2N3O2
